US04198420
A solution of 1.6 g of 3-phenoxypropyl bromide in 10 ml of diemthylformamide is added, portionwise over a 20 minute span to a mixture, at 80° C., of 2.1 g of 2-chloro-10,11-dihydro-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine], free base of Example 5, 2.1 g of sodium bicarbonate and 1.7 g of potassium iodide, in 15 ml of dimethylformamide. After total addition, the reaction mixture is stirred at 80°-85° C. for 16 hours. Thereafter, the mixture is cooled in an ice bath before being diluted with 75 ml of water. The diluted mixture is extracted with 40 ml of ether and both phases (organic and aqueous) are passed through filter paper. The filtered aqueous phase is extracted thrice with 40 ml portions of ether and the combined ether extracts are successively washed twice with 40 ml portions of ether and the combined ether extracts are successively washed twice with 40 ml portions of water, once with 20 ml of a saturated sodium chloride solution and dried. The residue is purified by passing through an alumina column, ether eluant, to provide 2-chloro-10,11-dihydro-11-oxo-1'-(3-phenoxypropyl)spiro[dibenz(b,f)thiepin-10,4'-piperidine].

reactant | 3-phenoxypropyl bromide | 1.6 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | 2-chloro-10,11-dihydro-11-oxospiro[dibenz(b,f)thiepin-10,4'-piperidine] | 2.1 g | ClC1=CC2=C(SC3=C(C=CC=C3)C3(CCNCC3)C2=O)C=C1 | C18H16ClNOS
reactant | sodium bicarbonate | 2.1 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 1.7 g | [I-].[K+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 75 ml | O | H2O
product | 2-chloro-10,11-dihydro-11-oxo-1'-(3-phenoxypropyl)spiro[dibenz(b,f)thiepin-10,4'-piperidine] | ClC1=CC2=C(SC3=C(C=CC=C3)C3(CCN(CC3)CCCOC3=CC=CC=C3)C2=O)C=C1 | C27H26ClNO2S
